US06680313B2
b) 4-Nitrobenzyl (1S,5R,6S)-2-[7-[2-(1-azonia-4-azabicyclo[2,2,2]oct-1-yl)ethyl]thioimidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate bromide
4-Nitrobenzyl (1S,5R,6S)-2-[7-(2-bromoethyl)thioimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate (177 mg) was dissolved in 5 ml of acetonitrile. 1,4-Diazabicylco[2,2,2]octane (43 mg) was added to the solution. The mixture was stirred at 50° C. for 12 hr. The reaction solution was concentrated, and the residue was purified by column chromatography on Sephadex LH-20 (chloroform:methanol=1:1) to prepare 184 mg of 4-nitrobenzyl (1S,5R,6S)-2-[7-[2-(1-azonia-4-azabicyclo-[2,2,2]oct-1-yl)ethyl]thioimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate bromide.

reactant | 4-Nitrobenzyl (1S,5R,6S)-2-[7-(2-bromoethyl)thioimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 177 mg | BrCCSC=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]1[C@@H](C)O)=O)C | C24H23BrN4O6S2
reactant | 1,4-Diazabicylco[2,2,2]octane | 43 mg | N12CCN(CC1)CC2 | C6H12N2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 4-Nitrobenzyl (1S,5R,6S)-2-[7-[2-(1-azonia-4-azabicyclo[2,2,2]oct-1-yl)ethyl]thioimidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate bromide | [Br-].[N+]12(CCN(CC1)CC2)CCSC=2N=CN1C2SC(=C1)C=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | InChI=1S/C30H35N6O6S2.BrH/c1-18-23(22-15-33-17-31-27(29(33)44-22)43-14-13-36-10-7-32(8-11-36)9-12-36)26(34-25(18)24(19(2)37)28(34)38)30(39)42-16-20-3-5-21(6-4-20)35(40)41;/h3-6,15,17-19,24-25,37H,7-14,16H2,1-2H3;1H/q+1;/p-1/t18-,19+,24+,25+;/m0./s1
